Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ is a ___ with a history of HCV/ETOH cirrhosis
(genotype 1a, child's class B) decompensated by ascites,
polysubstance abuse, COPD, HTN, and HLD who presents with
abdominal pain. She reports ___ abdominal pain from her
umbilicus to her xyphoid process that began 2+ weeks ago and
became more intense in the last few days. The pain is constant
and sharp. She has had similar pain in the past and was admitted
for similar pain ___ with no evidence of SBP. It was
thought to be multifactorial (constipation, hernia, ascites). 
She
improved on this admission but has had recurrence of pain. She
has multiple soft BM per day and has not noticed blood but does
not pay attention. She has nausea but no vomiting. 

She continues to drink alcohol and last drank the day prior to
admission (4 beers). She also used cocaine about a week prior to
admission. 

In the ED, initial VS were: 10 88 140/90 16 

Labs showed: 
WBC 7.6  Hgb 10.1  plts 119  

Na 144, K 4.2, BUN 7, Cr 0.8

ALT: 12 AP: 128 Tbili: 1.2 Alb: 3.4 
AST: 32 LDH:  Dbili:  TProt:  
___:  Lip: 35 

___: 14.6  PTT: 32.9  INR: 1.3  

WBC 238 RBC 192 Poly 11 Lymph ___ Mono 0    
Mesothe: ___
Macroph: 70 

Imaging showed:
Abd US with Doppler: 
1. No evidence of portal vein thrombosis. 
2. Splenomegaly. 

Patient received:
___ 20:53 IV Morphine Sulfate 4 mg   
___ 22:15 IV Morphine Sulfate 4 mg   
___ 03:10 IV Morphine Sulfate 4 mg 

Hepatology was consulted and recommended admission to ET. 

Transfer VS were: 8 97.6 62 117/70 16 100% RA 

On arrival to the floor, patient reports ongoing abdominal pain
as described above. No CP, dyspnea, cough, fevers, dysuria.

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair

 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 
1 brother sudden death in ___.
 
Physical Exam:
VS: 97.6  124/68 56 18 99 Ra 
GENERAL:  NAD, comfortable in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Crackles in bilateral bases, no wheezes
ABDOMEN: +distended, + periumbilical hernia (soft), diffusely
tender in all quadrants equally with light touch, percussion, 
and
deep palpation, no guarding or rigidity, normoactive BS
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: AAOx3, positive for asterixis, can recite days of the 
week
backwards 
 
Pertinent Results:
ADMISSION LABS
___ 08:09PM BLOOD WBC-7.6# RBC-4.00# Hgb-10.1*# Hct-34.4# 
MCV-86 MCH-25.3* MCHC-29.4* RDW-18.3* RDWSD-56.3* Plt ___
___ 08:09PM BLOOD Neuts-75.2* Lymphs-10.6* Monos-12.2 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-5.74# AbsLymp-0.81* 
AbsMono-0.93* AbsEos-0.09 AbsBaso-0.02
___ 08:09PM BLOOD ___ PTT-32.9 ___
___ 08:09PM BLOOD Glucose-161* UreaN-7 Creat-0.8 Na-144 
K-4.2 Cl-107 HCO3-21* AnGap-16
___ 08:09PM BLOOD ALT-12 AST-32 AlkPhos-128* TotBili-1.2
___ 05:17AM BLOOD Albumin-3.3* Calcium-8.5 Phos-4.1 Mg-2.0
___ 08:09PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:34AM BLOOD Lactate-2.1*

DISCHARGE LABS
___ 05:08AM BLOOD WBC-4.1 RBC-3.17* Hgb-8.0* Hct-27.0* 
MCV-85 MCH-25.2* MCHC-29.6* RDW-18.5* RDWSD-57.1* Plt Ct-81*
___ 05:08AM BLOOD Glucose-185* UreaN-11 Na-138 K-4.9 Cl-105 
HCO3-22 AnGap-11
___ 08:55AM BLOOD ___ PTT-35.1 ___
___ 05:08AM BLOOD ALT-14 AST-46* AlkPhos-96 TotBili-0.5
___ 05:08AM BLOOD Albumin-3.1* Calcium-8.0* Phos-2.7 Mg-2.4

PERITONEAL FLUID
___ 09:40PM ASCITES TNC-238* RBC-192* Polys-11* Lymphs-17* 
___ Mesothe-2* Macroph-70*
___ 09:40PM ASCITES TotPro-1.7 Glucose-170

MICRO
___ 9:40 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

IMAGING
KUB: Moderate to severe gaseous distension of the stomach.  No 
definite evidence of 
free air. 

ABDOMINAL ULTRASOUND W DOPPLER:
1. No evidence of main portal vein thrombosis. 
2. Cirrhotic liver with sequela of portal hypertension and 
moderate ascites. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ with a history of HCV/ETOH cirrhosis (Genotype 1a, Child's 
Class B) decompensated by ascites, polysubstance abuse, COPD, 
HTN, and HLD who presented with abdominal pain and ascites. She 
received a large volume diagnostic and therapeutic paracentesis 
with partial relief of her pain. 

ACTIVE ISSUES:
==============
# Abdominal pain: 
# Ascites: 
Pain likely secondary to ascites and gas pain. Diagnostic 
paracentesis not concerning for SBP. Her US was unremarkable for 
any gallbladder pathology or PVT. Her lipase and LFTs were 
unremarkable. Biopsies from her most recent EGD in OMR from ___ 
were negative for H. pylori. Mesenteric ischemia secondary to 
cocaine use and history of HLD is possible, but less likely 
given low lactate and no history of hypotension. She also had 
significant bowel gas on KUB, possibly contributing to her 
discomfort. She received a therapeutic paracentesis on ___, 
with improvement in discomfort. For her gaseous distension, 
patient was given Simethicone. She was also given Maalox. Her 
PPI was continued twice daily. She received a lidocaine patch 
and Tylenol ___ BID for pain. CT A/P was deferred given her 
subjective improvement after paracentesis and her benign 
abdominal exam. 

# Hepatic encephalopathy: 
On admission, patient had mild asterixis, with mild 
confusion/inattention, possibly worsened by morphine given in 
the ED. She reports having multiple loose BM per day without 
lactulose. Lactulose and Rifaximin were continued. Blood 
cultures were negative to date. Opiates were stopped.

STABLE ISSUES:
==============
# EtOH/HCV Cirrhosis: 
MELD on admission is 10. She is not a transplant candidate due 
to active alcohol/substance use. Her cirrhosis is decomensated 
by ascites, varices, HE. Her last EGD (___) showed 3 small 
varices. She had previously been on nadolol but this was 
discontinued last admission ___ due to ___ and not 
re-started. Her blood pressures continued to be soft this 
admission, so Nadolol was not started. She should receive 
Harvoni therapy in the future when medically stable. No changes 
were made to her diuretic regimen given uncertainty of follow up 
and evidence of recent hyperkalemia on OMR review. 

# EtOH abuse:
# Polysubstance abuse:
Tox screen was negative on admission. Her last reported drink 
was the day prior to admission (4 beers). Patient scored once on 
___ protocol on ___, received x1 Lorazepam. No history 
withdrawal reported. 

TRANSITIONAL ISSUES:
====================
[ ] Consider outpatient paracentesis on regular intervals
[ ] Consider chronic pain outpatient referral
[ ] Harvoni therapy when medically stable
[ ] Nadolol if blood pressures can tolerate as outpatient

-Discharge Weight: 61.55kg, 135.7 lbs
-Discharge Creatinine: 0.9

RESTARTED MEDS:
- Lactulose, Rifaximin

NEW MEDS:
- Acetaminophen 1000 mg PO/NG BID do not exceed 2gm/day 
- Maalox/Diphenhydramine/Lidocaine 15 mL PO QID 
- Polyethylene Glycol 17 g PO/NG DAILY 
- Simethicone 40-80 mg PO/NG QID 

FOLLOW UP:
-PCP (Follow up after hospitalization for ascites, hepatic 
encephalopathy. Management of chronic pain, substance use 
disorder)
-___ (for Hep C management, cirrhosis management). 

#CODE: Full (presumed) 
#CONTACT: ___ 
Relationship: fiance 
Phone number: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Mirtazapine 30 mg PO QHS 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. Simvastatin 20 mg PO QPM 
10. Thiamine 100 mg PO DAILY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
13. Docusate Sodium 100 mg PO BID 
14. Fluticasone Propionate NASAL 1 SPRY NU BID 
15. HydrOXYzine 25 mg PO BID:PRN itch 
16. Loratadine 10 mg PO DAILY:PRN allergies 
17. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
18. Rifaximin 550 mg PO BID 
19. Lactulose 30 mL PO Q8H:PRN constipation 
20. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO BID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
2.  Maalox/Diphenhydramine/Lidocaine 15 mL PO QID 
RX *alum-mag hydroxide-simeth [Maalox Maximum Strength] 400 
mg-400 mg-40 mg/5 mL 15 mL by mouth four times a day Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17g powder(s) by mouth 
daily Refills:*0 
4.  Simethicone 40-80 mg PO QID 
RX *simethicone 80 mg 1 tab by mouth four times a day Disp #*120 
Tablet Refills:*0 
5.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
6.  Aspirin 81 mg PO DAILY  
7.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
8.  Docusate Sodium 100 mg PO BID  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Fluticasone Propionate NASAL 1 SPRY NU BID  
11.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Furosemide 20 mg PO DAILY  
14.  HydrOXYzine 25 mg PO BID:PRN itch  
15.  Lactulose 30 mL PO Q8H:PRN constipation  
16.  Loratadine 10 mg PO DAILY:PRN allergies  
17.  Mirtazapine 30 mg PO QHS  
18.  Multivitamins W/minerals 1 TAB PO DAILY  
19.  Pantoprazole 40 mg PO Q12H  
20.  Rifaximin 550 mg PO BID  
21.  Simvastatin 20 mg PO QPM  
22.  Thiamine 100 mg PO DAILY  
23.  Tiotropium Bromide 1 CAP IH DAILY  
24.  TraMADOL (Ultram) 50 mg PO Q6H:PRN pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Ascites 
Hepatic Encephalopathy

SECONDARY DIAGNOSES
EtOH and HCV Cirrhosis
Substance Use Disorder
Alcohol Use Disorder

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking part in your care here at ___!

Why was I admitted to the hospital?
-You were admitted for belly pain, and for confusion. 
 
What was done for me in the hospital?
-You were given medicine for your abdominal pain. 
-You received imaging of your belly to make sure there wasn't an 
infection.
-Fluid in your belly was removed (a "paracentesis")
-You were monitored for 24 hours. 
-You were given medicines to help you have a bowel movement. 
-Your liver medicines to help with confusion (lactulose and 
rifaximin) were restarted.

What should I do when I leave the hospital?
-Please see your primary care doctor, as listed in the 
appointment below.
-Please follow up with liver clinic. 
-Please try to stop drinking alcohol. Alcohol will continue to 
make your liver disease worse, and can ultimately lead to death. 

 
When should I return to the hospital?
-You should return if you have severe abdominal pain, vomiting, 
blood in your vomit or in your stool, if you pass out, or any 
other symptoms that concern you. 

We wish you the best of luck in your health!

Sincerely,
Your ___ Treatment Team

 
Followup Instructions:
___